US09023889B2
Synthesis of (R)-5-[(R)-2-(3-benzotriazol-2-yl-4-hydroxybenzyloxy)-1-hydroxyethyl]-3,4-dihydroxy-5H-furan-2-one
35 g of (R)-3,4-bisbenzyloxy-5-((R)-1,2-dihydroxyethyl)-5H-furan-2-one (98.2 mmol; 1 eq.) are dissolved in 250 ml of THF under a protective-gas atmosphere, and 3.93 g of sodium hydroxide (98.2 mmol; 1 eq.) are added at 0° C. After 30 min, the 2-benzotriazol-2-yl-4-bromomethylphenol (35.8 g; 117.9 mmol; 1.2 eq.) dissolved in 100 ml of THF is added dropwise, the mixture is stirred at 0° C. for 60 min and at 70° C. for 7 hours. After the reaction solution has been cooled to room temperature, 2 g of Pd/C are added, and the mixture is hydrogenated for 5 hours under a hydrogen atmosphere at 3 bar and 50° C. After filtration through a Celite pad, the solution is neutralised using 2 N HCl solution. The extraction is carried out twice with 250 ml of sat. NaHCO3 solution and 100 ml of sat. NaCl solution. The product is precipitated from the org. phase using 370 ml of heptane.

reactant | (R)-3,4-bisbenzyloxy-5-((R)-1,2-dihydroxyethyl)-5H-furan-2-one | 98.2 mmol, 35 g, 1 eq. | C(C1=CC=CC=C1)OC=1C(O[C@@H](C1OCC1=CC=CC=C1)[C@@H](CO)O)=O | C20H20O6
reactant | sodium hydroxide | 98.2 mmol, 3.93 g, 1 eq. | [OH-].[Na+]
reactant | 2-benzotriazol-2-yl-4-bromomethylphenol | 117.9 mmol, 35.8 g, 1.2 eq. | N=1N(N=C2C1C=CC=C2)C2=C(C=CC(=C2)CBr)O | C13H10BrN3O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | (R)-5-[(R)-2-(3-benzotriazol-2-yl-4-hydroxybenzyloxy)-1-hydroxyethyl]-3,4-dihydroxy-5H-furan-2-one | N=1N(N=C2C1C=CC=C2)C=2C=C(COC[C@@H](O)[C@@H]1C(=C(C(O1)=O)O)O)C=CC2O | C19H17N3O7
